US05223498
Reaction of 3-ethyl-1,1,3-trimethylurea (6.57 g) in benzene (70 ml) with 4-(2-aminophenyl)morpholine (6 g) in benzene (30 ml) in the presence of phosphorus oxychloride (4.71 ml) for 45 hours at 65°-70° C. gave 1-ethyl-2-(2-morpholinophenyl)-1,3,3-trimethylguanidine (bp. 140° C. at 0.2 mm Hg).

reactant | 3-ethyl-1,1,3-trimethylurea | 6.57 g | C(C)N(C(N(C)C)=O)C | C6H14N2O
reactant | 4-(2-aminophenyl)morpholine | 6 g | NC1=C(C=CC=C1)N1CCOCC1 | C10H14N2O
reactant | phosphorus oxychloride | 4.71 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 1-ethyl-2-(2-morpholinophenyl)-1,3,3-trimethylguanidine | C(C)N(C(=NC1=C(C=CC=C1)N1CCOCC1)N(C)C)C | C16H26N4O
